US04969950
0.5 g of 4-N,N'-dimethylaminopyridine and then 50 g (0.25 mol) of p-toluenesulfonyl chloride are added to a suspension of 50 g (0.24 mol) of 1-cyano-1-(1,2,4-triazol-1-yl)-3-ethyl-1-penten-2-ol in 300 ml of toluene. 50 ml (0.36 mol) of triethylamine are then added dropwise. Stirring is carried out for 40 hours at room temperature, the mixture is extracted by shaking with water, the organic phase is evaporated down and the product is allowed to crystallize out. Recrystallization from ethanol gives 60 g (68%) of 2-(4-methylphenylsulfonyl)-1-cyano-1-(1,2,4-triazolyl)-3-ethyl-1-pentene in the form of a Z/E isomer mixture. Mp. 78-87° C.

reactant | p-toluenesulfonyl chloride | 0.25 mol, 50 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | 1-cyano-1-(1,2,4-triazol-1-yl)-3-ethyl-1-penten-2-ol | 0.24 mol, 50 g | C(#N)C(=C(C(CC)CC)O)N1N=CN=C1 | C10H14N4O
reactant | triethylamine | 0.36 mol, 50 ml | C(C)N(CC)CC | C6H15N
reactant | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(4-methylphenylsulfonyl)-1-cyano-1-(1,2,4-triazolyl)-3-ethyl-1-pentene | 60 g, 68% | CC1=CC=C(C=C1)S(=O)(=O)C(=C(C1=NNC=N1)C#N)C(CC)CC | C17H20N4O2S
